### PR TITLE
[Merged by Bors] - feat: port Topology.Algebra.Order.MonotoneContinuity

### PR DESCRIPTION
**Pull request by mcdoll**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/Order/MonotoneContinuity.lean [hunk 1]
```diff
@@ -43,94 +43,101 @@ continuous at `a` from the right.
...
+      ((h_mono.le_iff_le has hxs).2 hxa)
   · rcases hfs b hb with ⟨c, hcs, hac, hcb⟩
     rw [h_mono.lt_iff_lt has hcs] at hac
     filter_upwards [hs, Ico_mem_nhdsWithin_Ici (left_mem_Ico.2 hac)]
-    rintro x hx ⟨hax, hxc⟩
+    rintro x hx ⟨_, hxc⟩
     exact ((h_mono.lt_iff_lt hx hcs).2 hxc).trans_le hcb
-#align strict_mono_on.continuous_at_right_of_exists_between StrictMonoOn.continuous_at_right_of_exists_between
+#align strict_mono_on.continuous_at_right_of_exists_between
+  StrictMonoOn.continuousWithinAt_right_of_exists_between
```
Comment (jcommelin) [inline Mathlib/Topology/Algebra/Order/MonotoneContinuity.lean:60]:
```suggestion
#align strict_mono_on.continuous_at_right_of_exists_between StrictMonoOn.continuousWithinAt_right_of_exists_between
```

File: Mathlib/Topology/Algebra/Order/MonotoneContinuity.lean [hunk 2]
```diff
@@ -43,94 +43,101 @@ continuous at `a` from the right.
...
+      (h_mono has hxs hxa)
   · rcases hfs b hb with ⟨c, hcs, hac, hcb⟩
     have : a < c := not_le.1 fun h => hac.not_le <| h_mono hcs has h
     filter_upwards [hs, Ico_mem_nhdsWithin_Ici (left_mem_Ico.2 this)]
-    rintro x hx ⟨hax, hxc⟩
+    rintro x hx ⟨_, hxc⟩
     exact (h_mono hx hcs hxc.le).trans_lt hcb
-#align continuous_at_right_of_monotone_on_of_exists_between continuous_at_right_of_monotoneOn_of_exists_between
+#align continuous_at_right_of_monotone_on_of_exists_between
+  continuousWithinAt_right_of_monotoneOn_of_exists_between
```
Comment (jcommelin) [inline Mathlib/Topology/Algebra/Order/MonotoneContinuity.lean:82]:
```suggestion
#align continuous_at_right_of_monotone_on_of_exists_between continuousWithinAt_right_of_monotoneOn_of_exists_between
```

File: Mathlib/Topology/Algebra/Order/MonotoneContinuity.lean [hunk 3]
```diff
@@ -43,94 +43,101 @@ continuous at `a` from the right.
...
-  refine' continuous_at_right_of_monotoneOn_of_exists_between h_mono hs fun b hb => _
+  refine' continuousWithinAt_right_of_monotoneOn_of_exists_between h_mono hs fun b hb => _
   rcases(mem_nhdsWithin_Ici_iff_exists_mem_Ioc_Ico_subset hb).1 hfs with ⟨b', ⟨hab', hbb'⟩, hb'⟩
   rcases exists_between hab' with ⟨c', hc'⟩
   rcases mem_closure_iff.1 (hb' ⟨hc'.1.le, hc'.2⟩) (Ioo (f a) b') isOpen_Ioo hc' with
     ⟨_, hc, ⟨c, hcs, rfl⟩⟩
   exact ⟨c, hcs, hc.1, hc.2.trans_le hbb'⟩
-#align continuous_at_right_of_monotone_on_of_closure_image_mem_nhds_within continuous_at_right_of_monotoneOn_of_closure_image_mem_nhdsWithin
+#align continuous_at_right_of_monotone_on_of_closure_image_mem_nhds_within
+  continuousWithinAt_right_of_monotoneOn_of_closure_image_mem_nhdsWithin
```
Comment (jcommelin) [inline Mathlib/Topology/Algebra/Order/MonotoneContinuity.lean:97]:
```suggestion
#align continuous_at_right_of_monotone_on_of_closure_image_mem_nhds_within continuousWithinAt_right_of_monotoneOn_of_closure_image_mem_nhdsWithin
```

File: Mathlib/Topology/Algebra/Order/MonotoneContinuity.lean [hunk 4]
```diff
@@ -43,94 +43,101 @@ continuous at `a` from the right.
...
-    ContinuousWithinAt f (Ici a) a :=
-  continuous_at_right_of_monotoneOn_of_closure_image_mem_nhdsWithin h_mono hs <|
+theorem continuousWithinAt_right_of_monotoneOn_of_image_mem_nhdsWithin [DenselyOrdered β]
+    {f : α → β} {s : Set α} {a : α} (h_mono : MonotoneOn f s) (hs : s ∈ 𝓝[≥] a)
+    (hfs : f '' s ∈ 𝓝[≥] f a) : ContinuousWithinAt f (Ici a) a :=
+  continuousWithinAt_right_of_monotoneOn_of_closure_image_mem_nhdsWithin h_mono hs <|
     mem_of_superset hfs subset_closure
-#align continuous_at_right_of_monotone_on_of_image_mem_nhds_within continuous_at_right_of_monotoneOn_of_image_mem_nhdsWithin
+#align continuous_at_right_of_monotone_on_of_image_mem_nhds_within
+  continuousWithinAt_right_of_monotoneOn_of_image_mem_nhdsWithin
```
Comment (jcommelin) [inline Mathlib/Topology/Algebra/Order/MonotoneContinuity.lean:108]:
```suggestion
#align continuous_at_right_of_monotone_on_of_image_mem_nhds_within continuousWithinAt_right_of_monotoneOn_of_image_mem_nhdsWithin
```

File: Mathlib/Topology/Algebra/Order/MonotoneContinuity.lean [hunk 5]
```diff
@@ -43,94 +43,101 @@ continuous at `a` from the right.
...
+theorem StrictMonoOn.continuousWithinAt_right_of_closure_image_mem_nhdsWithin [DenselyOrdered β]
     {f : α → β} {s : Set α} {a : α} (h_mono : StrictMonoOn f s) (hs : s ∈ 𝓝[≥] a)
     (hfs : closure (f '' s) ∈ 𝓝[≥] f a) : ContinuousWithinAt f (Ici a) a :=
-  continuous_at_right_of_monotoneOn_of_closure_image_mem_nhdsWithin
-    (fun x hx y hy => (h_mono.le_iff_le hx hy).2) hs hfs
-#align strict_mono_on.continuous_at_right_of_closure_image_mem_nhds_within StrictMonoOn.continuous_at_right_of_closure_image_mem_nhdsWithin
+  continuousWithinAt_right_of_monotoneOn_of_closure_image_mem_nhdsWithin
+    (fun _ hx _ hy => (h_mono.le_iff_le hx hy).2) hs hfs
+#align strict_mono_on.continuous_at_right_of_closure_image_mem_nhds_within
+  StrictMonoOn.continuousWithinAt_right_of_closure_image_mem_nhdsWithin
```
Comment (jcommelin) [inline Mathlib/Topology/Algebra/Order/MonotoneContinuity.lean:119]:
```suggestion
#align strict_mono_on.continuous_at_right_of_closure_image_mem_nhds_within StrictMonoOn.continuousWithinAt_right_of_closure_image_mem_nhdsWithin
```

File: Mathlib/Topology/Algebra/Order/MonotoneContinuity.lean [hunk 6]
```diff
@@ -43,94 +43,101 @@ continuous at `a` from the right.
...
-theorem StrictMonoOn.continuous_at_right_of_image_mem_nhdsWithin [DenselyOrdered β] {f : α → β}
+theorem StrictMonoOn.continuousWithinAt_right_of_image_mem_nhdsWithin [DenselyOrdered β] {f : α → β}
     {s : Set α} {a : α} (h_mono : StrictMonoOn f s) (hs : s ∈ 𝓝[≥] a) (hfs : f '' s ∈ 𝓝[≥] f a) :
     ContinuousWithinAt f (Ici a) a :=
-  h_mono.continuous_at_right_of_closure_image_mem_nhdsWithin hs (mem_of_superset hfs subset_closure)
-#align strict_mono_on.continuous_at_right_of_image_mem_nhds_within StrictMonoOn.continuous_at_right_of_image_mem_nhdsWithin
+  h_mono.continuousWithinAt_right_of_closure_image_mem_nhdsWithin hs
+    (mem_of_superset hfs subset_closure)
+#align strict_mono_on.continuous_at_right_of_image_mem_nhds_within
+  StrictMonoOn.continuousWithinAt_right_of_image_mem_nhdsWithin
```
Comment (jcommelin) [inline Mathlib/Topology/Algebra/Order/MonotoneContinuity.lean:130]:
```suggestion
#align strict_mono_on.continuous_at_right_of_image_mem_nhds_within StrictMonoOn.continuousWithinAt_right_of_image_mem_nhdsWithin
```

File: Mathlib/Topology/Algebra/Order/MonotoneContinuity.lean [hunk 7]
```diff
@@ -139,74 +146,80 @@ from the left.
...
+theorem StrictMonoOn.continuousWithinAt_left_of_exists_between {f : α → β} {s : Set α} {a : α}
     (h_mono : StrictMonoOn f s) (hs : s ∈ 𝓝[≤] a) (hfs : ∀ b < f a, ∃ c ∈ s, f c ∈ Ico b (f a)) :
     ContinuousWithinAt f (Iic a) a :=
-  h_mono.dual.continuous_at_right_of_exists_between hs fun b hb =>
+  h_mono.dual.continuousWithinAt_right_of_exists_between hs fun b hb =>
     let ⟨c, hcs, hcb, hca⟩ := hfs b hb
     ⟨c, hcs, hca, hcb⟩
-#align strict_mono_on.continuous_at_left_of_exists_between StrictMonoOn.continuous_at_left_of_exists_between
+#align strict_mono_on.continuous_at_left_of_exists_between
+  StrictMonoOn.continuousWithinAt_left_of_exists_between
```
Comment (jcommelin) [inline Mathlib/Topology/Algebra/Order/MonotoneContinuity.lean:156]:
```suggestion
#align strict_mono_on.continuous_at_left_of_exists_between StrictMonoOn.continuousWithinAt_left_of_exists_between
```

File: Mathlib/Topology/Algebra/Order/MonotoneContinuity.lean [hunk 8]
```diff
@@ -139,74 +146,80 @@ from the left.
...
     (hf : MonotoneOn f s) (hs : s ∈ 𝓝[≤] a) (hfs : ∀ b < f a, ∃ c ∈ s, f c ∈ Ioo b (f a)) :
     ContinuousWithinAt f (Iic a) a :=
-  @continuous_at_right_of_monotoneOn_of_exists_between αᵒᵈ βᵒᵈ _ _ _ _ _ _ f s a hf.dual hs
+  @continuousWithinAt_right_of_monotoneOn_of_exists_between αᵒᵈ βᵒᵈ _ _ _ _ _ _ f s a hf.dual hs
     fun b hb =>
     let ⟨c, hcs, hcb, hca⟩ := hfs b hb
     ⟨c, hcs, hca, hcb⟩
-#align continuous_at_left_of_monotone_on_of_exists_between continuous_at_left_of_monotoneOn_of_exists_between
+#align continuous_at_left_of_monotone_on_of_exists_between
+  continuousWithinAt_left_of_monotoneOn_of_exists_between
```
Comment (jcommelin) [inline Mathlib/Topology/Algebra/Order/MonotoneContinuity.lean:172]:
```suggestion
#align continuous_at_left_of_monotone_on_of_exists_between continuousWithinAt_left_of_monotoneOn_of_exists_between
```

File: Mathlib/Topology/Algebra/Order/MonotoneContinuity.lean [hunk 9]
```diff
@@ -139,74 +146,80 @@ from the left.
...
+theorem continuousWithinAt_left_of_monotoneOn_of_closure_image_mem_nhdsWithin [DenselyOrdered β]
     {f : α → β} {s : Set α} {a : α} (hf : MonotoneOn f s) (hs : s ∈ 𝓝[≤] a)
     (hfs : closure (f '' s) ∈ 𝓝[≤] f a) : ContinuousWithinAt f (Iic a) a :=
-  @continuous_at_right_of_monotoneOn_of_closure_image_mem_nhdsWithin αᵒᵈ βᵒᵈ _ _ _ _ _ _ _ f s a
-    hf.dual hs hfs
-#align continuous_at_left_of_monotone_on_of_closure_image_mem_nhds_within continuous_at_left_of_monotoneOn_of_closure_image_mem_nhdsWithin
+  @continuousWithinAt_right_of_monotoneOn_of_closure_image_mem_nhdsWithin αᵒᵈ βᵒᵈ _ _ _ _ _ _ _ f s
+    a hf.dual hs hfs
+#align continuous_at_left_of_monotone_on_of_closure_image_mem_nhds_within
+  continuousWithinAt_left_of_monotoneOn_of_closure_image_mem_nhdsWithin
```
Comment (jcommelin) [inline Mathlib/Topology/Algebra/Order/MonotoneContinuity.lean:183]:
```suggestion
#align continuous_at_left_of_monotone_on_of_closure_image_mem_nhds_within continuousWithinAt_left_of_monotoneOn_of_closure_image_mem_nhdsWithin
```

File: Mathlib/Topology/Algebra/Order/MonotoneContinuity.lean [hunk 10]
```diff
@@ -139,74 +146,80 @@ from the left.
...
-theorem continuous_at_left_of_monotoneOn_of_image_mem_nhdsWithin [DenselyOrdered β] {f : α → β}
+theorem continuousWithinAt_left_of_monotoneOn_of_image_mem_nhdsWithin [DenselyOrdered β] {f : α → β}
     {s : Set α} {a : α} (h_mono : MonotoneOn f s) (hs : s ∈ 𝓝[≤] a) (hfs : f '' s ∈ 𝓝[≤] f a) :
     ContinuousWithinAt f (Iic a) a :=
-  continuous_at_left_of_monotoneOn_of_closure_image_mem_nhdsWithin h_mono hs
+  continuousWithinAt_left_of_monotoneOn_of_closure_image_mem_nhdsWithin h_mono hs
     (mem_of_superset hfs subset_closure)
-#align continuous_at_left_of_monotone_on_of_image_mem_nhds_within continuous_at_left_of_monotoneOn_of_image_mem_nhdsWithin
+#align continuous_at_left_of_monotone_on_of_image_mem_nhds_within
+  continuousWithinAt_left_of_monotoneOn_of_image_mem_nhdsWithin
```
Comment (jcommelin) [inline Mathlib/Topology/Algebra/Order/MonotoneContinuity.lean:194]:
```suggestion
#align continuous_at_left_of_monotone_on_of_image_mem_nhds_within continuousWithinAt_left_of_monotoneOn_of_image_mem_nhdsWithin
```

File: Mathlib/Topology/Algebra/Order/MonotoneContinuity.lean [hunk 11]
```diff
@@ -139,74 +146,80 @@ from the left.
...
 then `f` is continuous at `a` from the left. -/
-theorem StrictMonoOn.continuous_at_left_of_closure_image_mem_nhdsWithin [DenselyOrdered β]
+theorem StrictMonoOn.continuousWithinAt_left_of_closure_image_mem_nhdsWithin [DenselyOrdered β]
     {f : α → β} {s : Set α} {a : α} (h_mono : StrictMonoOn f s) (hs : s ∈ 𝓝[≤] a)
     (hfs : closure (f '' s) ∈ 𝓝[≤] f a) : ContinuousWithinAt f (Iic a) a :=
-  h_mono.dual.continuous_at_right_of_closure_image_mem_nhdsWithin hs hfs
-#align strict_mono_on.continuous_at_left_of_closure_image_mem_nhds_within StrictMonoOn.continuous_at_left_of_closure_image_mem_nhdsWithin
+  h_mono.dual.continuousWithinAt_right_of_closure_image_mem_nhdsWithin hs hfs
+#align strict_mono_on.continuous_at_left_of_closure_image_mem_nhds_within
+  StrictMonoOn.continuousWithinAt_left_of_closure_image_mem_nhdsWithin
```
Comment (jcommelin) [inline Mathlib/Topology/Algebra/Order/MonotoneContinuity.lean:204]:
```suggestion
#align strict_mono_on.continuous_at_left_of_closure_image_mem_nhds_within StrictMonoOn.continuousWithinAt_left_of_closure_image_mem_nhdsWithin
```

File: Mathlib/Topology/Algebra/Order/MonotoneContinuity.lean [hunk 12]
```diff
@@ -139,74 +146,80 @@ from the left.
...
 continuous at `a` from the left. -/
-theorem StrictMonoOn.continuous_at_left_of_image_mem_nhdsWithin [DenselyOrdered β] {f : α → β}
+theorem StrictMonoOn.continuousWithinAt_left_of_image_mem_nhdsWithin [DenselyOrdered β] {f : α → β}
     {s : Set α} {a : α} (h_mono : StrictMonoOn f s) (hs : s ∈ 𝓝[≤] a) (hfs : f '' s ∈ 𝓝[≤] f a) :
     ContinuousWithinAt f (Iic a) a :=
-  h_mono.dual.continuous_at_right_of_image_mem_nhdsWithin hs hfs
-#align strict_mono_on.continuous_at_left_of_image_mem_nhds_within StrictMonoOn.continuous_at_left_of_image_mem_nhdsWithin
+  h_mono.dual.continuousWithinAt_right_of_image_mem_nhdsWithin hs hfs
+#align strict_mono_on.continuous_at_left_of_image_mem_nhds_within
+  StrictMonoOn.continuousWithinAt_left_of_image_mem_nhdsWithin
```
Comment (jcommelin) [inline Mathlib/Topology/Algebra/Order/MonotoneContinuity.lean:214]:
```suggestion
#align strict_mono_on.continuous_at_left_of_image_mem_nhds_within StrictMonoOn.continuousWithinAt_left_of_image_mem_nhdsWithin
```

File: Mathlib/Topology/Algebra/Order/MonotoneContinuity.lean [hunk 13]
```diff
@@ -226,11 +239,12 @@ theorem StrictMonoOn.continuousAt_of_closure_image_mem_nhds [DenselyOrdered β]
...
-    ⟨h_mono.continuous_at_left_of_closure_image_mem_nhdsWithin (mem_nhdsWithin_of_mem_nhds hs)
+    ⟨h_mono.continuousWithinAt_left_of_closure_image_mem_nhdsWithin (mem_nhdsWithin_of_mem_nhds hs)
         (mem_nhdsWithin_of_mem_nhds hfs),
-      h_mono.continuous_at_right_of_closure_image_mem_nhdsWithin (mem_nhdsWithin_of_mem_nhds hs)
-        (mem_nhdsWithin_of_mem_nhds hfs)⟩
-#align strict_mono_on.continuous_at_of_closure_image_mem_nhds StrictMonoOn.continuousAt_of_closure_image_mem_nhds
+      h_mono.continuousWithinAt_right_of_closure_image_mem_nhdsWithin
+        (mem_nhdsWithin_of_mem_nhds hs) (mem_nhdsWithin_of_mem_nhds hfs)⟩
+#align strict_mono_on.continuous_at_of_closure_image_mem_nhds
+  StrictMonoOn.continuousAt_of_closure_image_mem_nhds
```
Comment (jcommelin) [inline Mathlib/Topology/Algebra/Order/MonotoneContinuity.lean:247]:
```suggestion
#align strict_mono_on.continuous_at_of_closure_image_mem_nhds StrictMonoOn.continuousAt_of_closure_image_mem_nhds
```

File: Mathlib/Topology/Algebra/Order/MonotoneContinuity.lean [hunk 14]
```diff
@@ -260,11 +274,12 @@ theorem continuousAt_of_monotoneOn_of_closure_image_mem_nhds [DenselyOrdered β]
...
   continuousAt_iff_continuous_left_right.2
-    ⟨continuous_at_left_of_monotoneOn_of_closure_image_mem_nhdsWithin h_mono
+    ⟨continuousWithinAt_left_of_monotoneOn_of_closure_image_mem_nhdsWithin h_mono
         (mem_nhdsWithin_of_mem_nhds hs) (mem_nhdsWithin_of_mem_nhds hfs),
-      continuous_at_right_of_monotoneOn_of_closure_image_mem_nhdsWithin h_mono
+      continuousWithinAt_right_of_monotoneOn_of_closure_image_mem_nhdsWithin h_mono
         (mem_nhdsWithin_of_mem_nhds hs) (mem_nhdsWithin_of_mem_nhds hfs)⟩
-#align continuous_at_of_monotone_on_of_closure_image_mem_nhds continuousAt_of_monotoneOn_of_closure_image_mem_nhds
+#align continuous_at_of_monotone_on_of_closure_image_mem_nhds
+  continuousAt_of_monotoneOn_of_closure_image_mem_nhds
```
Comment (jcommelin) [inline Mathlib/Topology/Algebra/Order/MonotoneContinuity.lean:282]:
```suggestion
#align continuous_at_of_monotone_on_of_closure_image_mem_nhds continuousAt_of_monotoneOn_of_closure_image_mem_nhds
```

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
